US05405981
Following the procedure of Example 1, a mixed solution was formed of the cuprate and Me3ZnLi (0.52 mmol) comprising 10 mol-% of copper per mole of enone. The solution was treated with 4-isopropyl-2-cyclohexenone (77 μL, 0.5 mmol) as a neat liquid over 70 minutes and then stirred for an additional 2 hours. Hexanal (0.25 mL, 2.0 mmol), in 1.0 mL THF at -78° C., was then added. After 5 minutes the mixture was quenched with 5 mL of 10% NH4OH in saturated NH4Cl. The product was extracted with 3×20 mL of ether and dried over Na2SO4. The solution was then filtered through flitted filter paper and the solvent removed in vacuo. The resulting residue was submitted to flash chromatography on silica gel (Petroleum Ether/Ethyl Acetate, 30/1) to give an 82% yield of 2-(1-hydroxyhexyl)-3-(1-octen-1-yl)-4-isopropyl cyclohexanone as a colorless oil which gave satisfactory IR, NMR, MS, and HRMS data.

reactant | 4-isopropyl-2-cyclohexenone | 0.5 mmol, 77 μL | C(C)(C)C1C=CC(CC1)=O | C9H14O
reactant | Hexanal | 2.0 mmol, 0.25 mL | C(CCCCC)=O | C6H12O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | copper | [Cu] | Cu
product | 2-(1-hydroxyhexyl)-3-(1-octen-1-yl)-4-isopropyl cyclohexanone | 82% yield | OC(CCCCC)C1C(CCC(C1C=CCCCCCC)C(C)C)=O | C23H42O2
